US06107427
10.5 g (59 mmol) of methyl 3-(4-hydroxy-phenyl)-acrylate were dissolved in 170 ml of tetrahydrofuran and treated in succession with 9.1 ml (65 mmol) of triethylamine and 0.079 g (0.65 mmol) of 4-dimethylamino-pyridine (DMAP). 6.8 g (65 mmol) of methacryloyl chloride were added dropwise to the solution, cooled to about 15° C., over a period of 30 minutes. The reaction batch was stirred at room temperature overnight and subsequently filtered over a thin silica gel layer. The silica gel layer was rinsed thoroughly with THF. After evaporation of the solvent the crude product was recrystallized from about 200 ml of ethanol. It was filtered off, dried and recrystallized once more from ethanol. Filtration and drying at 50° C. in a water-jet vacuum gave 10.3 g of 4-[(E)-2-methoxycarbonyl-vinyl]-phenyl 2-methyl-acrylate as white crystals with a melting point of 76-80° C. and an absorption maximum of λmax. (in CH2Cl2)=281.7 nm (ε=24290 l/mol cm).

reactant | methyl 3-(4-hydroxy-phenyl)-acrylate | 59 mmol, 10.5 g | OC1=CC=C(C=C1)C=CC(=O)OC | C10H10O3
reactant | triethylamine | 65 mmol, 9.1 ml | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 65 mmol, 6.8 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylamino-pyridine | 0.65 mmol, 0.079 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(E)-2-methoxycarbonyl-vinyl]-phenyl 2-methyl-acrylate | 10.3 g | CC(C(=O)OC1=CC=C(C=C1)\C=C\C(=O)OC)=C | C14H14O4
